US07517875B2
Synthesis of 4-{[(4-oxo-1H, 5H-benzo[f]1,3-diazepin-2-yl)amino]methyl}piperidine carboxylic acid tert-butyl ester
After dissolving 4-{[({[2-(carbamoylmethyl)phenyl]amino}thioxomethyl)amino]methyl}piperidine carboxylic acid tert-butyl ester (410 mg, 1.01 mmol) in tetrahydrofuran (15 mL), N,N′-dicyclohexylcarbodiimide (208 mg, 1.01 mmol) was added and the mixture was stirred at room temperature for 6 hours. The filtrate obtained by filtering the insoluble portion was concentrated under reduced pressure, and the concentrate was suspended in a solution of n-hexane:ethyl acetate=1:2 (3 mL). The insoluble portion was refiltered, and the residue obtained by concentrating the filtrate under reduced pressure was purified by silica gel column chromatography (n-hexane/ethyl acetate=2/3→1/2) to obtain the title compound. Yield: 193 mg (51%).

reactant | 4-{[({[2-(carbamoylmethyl)phenyl]amino}thioxomethyl)amino]methyl}piperidine carboxylic acid tert-butyl ester | 1.01 mmol, 410 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC(=S)NC1=C(C=CC=C1)CC(N)=O | C20H30N4O3S
reactant | N,N′-dicyclohexylcarbodiimide | 1.01 mmol, 208 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 4-{[(4-oxo-1H, 5H-benzo[f]1,3-diazepin-2-yl)amino]methyl}piperidine carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC=1NC2=C(CC(N1)=O)C=CC=C2 | C20H28N4O3
